US07253176B1
6-Amino-1-neopentyluracil (70c).
N-neopentylurea (13.0 g, 0.1 mol) and ethyl cyanoacetate (10 ml) were heated in 4N NaOEt (100 ml) for 4 hours under reflux. The reaction mixture was evaporated to dryness, the residue treated with water (100 ml) and then acidified with AcOH to pH 4–5 to form a colorless precipitate. Yield: 11.2 g (59%).

reactant | N-neopentylurea | 0.1 mol, 13.0 g | C(C(C)(C)C)NC(=O)N | C6H14N2O
reactant | ethyl cyanoacetate | 10 ml | C(#N)CC(=O)OCC | C5H7NO2
solvent | NaOEt | 4N, 100 ml | CC[O-].[Na+]
product | 6-Amino-1-neopentyluracil | NC1=CC(NC(N1CC(C)(C)C)=O)=O | C9H15N3O2
